US04305868
2-Stearamidoethyl 3,4-di-tert-butyl-4-hydroxybenzoate
A mixture of 25 g (0.1 mole) 3,5-di-tert-butyl-4-hydroxybenzoic acid, 50 ml toluene and 8.5 ml thionyl chloride was refluxed for 3 hours. The excess thionyl chloride and the toluene were removed on a rotary evaporator. The acid chloride was dissolved in 50 ml toluene and was added to a mixture of 29.4 g (0.09 mole) N-(2-hydroxyethyl)stearamide, 20 ml toluene and 15 ml pyridine. The mixture was refluxed for two hours. The reaction mixture was then cooled, quenched with water, washed with dilute hydrochloric acid and with water. The toluene was removed by distillation, and the residue was crystallized from hexane. The title compound thus obtained melted at 56°-58° C.

reactant | 3,5-di-tert-butyl-4-hydroxybenzoic acid | 0.1 mole, 25 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 8.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-hydroxyethyl)stearamide | 0.09 mole, 29.4 g | OCCNC(CCCCCCCCCCCCCCCCC)=O | C20H41NO2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-Stearamidoethyl 3,4-di-tert-butyl-4-hydroxybenzoate | C(C)(C)(C)C1C=C(C(=O)OCCNC(CCCCCCCCCCCCCCCCC)=O)C=CC1(O)C(C)(C)C | C35H63NO4
